US05128355
To a mixture of 1.45 g of 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxaldehyde and 0.91 g of sodium cyanide in 20 mL of methanol at 25° C. was added 0.32 mL of acetic acid followed by 7.25 g of manganese dioxide. The resulting mixture was stirred at 25° C. for 40 hours. The reaction mixture was filtered through Celite®, and the filtrate diluted with water. The aqueous solution was adjusted to pH 3 using hydrochloric acid and extracted with methylene chloride. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was recrystallized from diethyl ether to afford 0.90 g of methyl 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxylate (m.p. 154°-155° C.). NMR (200 MHz, DMSO-d6); δ 12.75 (br s, 1H), 7.73 (d, 1H) 7.58 (t, 1H), 7.46 (t, 1H), 7.34 (m, 3H), 7.07 (d, 2H), 5.63 (s, 3H), 3.78 (s, 3H), 2.67 (t, 2H), 1.56 (quint., 2H), 1.29 (sext., 2H), 0.83 (t, 3H).

reactant | 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxaldehyde | 1.45 g | C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)CCCC | C22H21ClN2O3
reactant | sodium cyanide | 0.91 g | [C-]#N.[Na+]
reactant | acetic acid | 0.32 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | manganese dioxide | 7.25 g | [O-2].[O-2].[Mn+4]
product | methyl 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxylate | 0.90 g | C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OC)Cl)CCCC | C23H23ClN2O4
